US07696240B2
1-(5-Fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 3-bromomethyl-5-fluoro-benzo[b]thiophene (Lit. 18) and the product obtained was hydrolyzed to give the title compound as pale yellow solid. MS: 324.0 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 3-bromomethyl-5-fluoro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC(=C2)F | C9H6BrFS
product | 1-(5-Fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid | FC1=CC2=C(SC=C2CN2C(=CC3=CC=CC=C23)C(=O)O)C=C1 | C18H12FNO2S
